US05556853
In substantially the same manner as in Example 5, morpholine (290 μl) was condensed with Boc-p-nitro-L-phenylalanine (996 mg, Bachem Fein Chemikalien AG, Switzerland) to give N-(Boc-p-nitro-L-phenylalanyl)morpholine (1.22 g) as a white powder (yield 96%). After Boc group elimination with 4N HCl/ethyl acetate, the product was condensed with (2S,3S)-ethyl hydrogen trans-epoxysuccinate as obtained in Reference Example 8 (465 mg) to yield the title compound (compound 71; 878 mg) as a white powder (yield 81%).

reactant | Boc-p-nitro-L-phenylalanine | 996 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C14H18N2O6
reactant | morpholine | 290 μl | N1CCOCC1 | C4H9NO
product | N-(Boc-p-nitro-L-phenylalanyl)morpholine | 1.22 g, yield 96% | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1CCOCC1 | C18H25N3O6
